US06949542B2
3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester
The title compond was prepared from 3-pyridin-2-yl-benzoic acid methyl ester [CAS-No. 98061-20-2] (9.42 g, 44.18 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a yellow oil (8.35 g).

reactant | 3-pyridin-2-yl-benzoic acid methyl ester | 44.18 mmol, 9.42 g | COC(C1=CC(=CC=C1)C1=NC=CC=C1)=O | C13H11NO2
reactant | lithium tert-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester | 8.35 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O | C18H19NO3
